US04540698
Synthesis of 2,4-dimethoxy-5,6-bis(methylthio)pyrimidine (Compound No. 1) . . . Route (a)
Into a 100-milliliter, 4-necked flask equipped with a reflux condenser, thermometer and stirrer, were charged 5.51 g of 6-chloro-2,4-dimethoxy-5-methylthiopyrimidine and 50 ml of tetrahydrofuran. After causing the pyrimidine derivative to dissolve completely in the solvent, a 15% aqueous solution of sodium methyl mercaptan (commercially available; product of Tokyo Kasei Kogyo K.K.) was added dropwise and the resultant mixture was refluxed for 5 hours.

reactant | 6-chloro-2,4-dimethoxy-5-methylthiopyrimidine | 5.51 g | ClC1=C(C(=NC(=N1)OC)OC)SC | C7H9ClN2O2S
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
reactant | sodium methyl mercaptan | CS.[Na]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-dimethoxy-5,6-bis(methylthio)pyrimidine | COC1=NC(=C(C(=N1)OC)SC)SC | C8H12N2O2S2
